US06528510B1
2-Amino-5-tert-butyl-benzothiazole-6-thiol
The title compound was prepared according to General Method 14 using 5-tert-butyl-6-thiocyanato-benzothiazol-2-yl-amine (Example L-1; 8 g, 30 mmol), dithiothreitol (18.7 g, 121 mmol), EtOH (200 mL), and phosphate buffer (50 mL). MS (APCI): 239 (M+H).

reactant | 5-tert-butyl-6-thiocyanato-benzothiazol-2-yl-amine | 30 mmol, 8 g | C(C)(C)(C)C=1C(=CC2=C(N=C(S2)N)C1)SC#N | C12H13N3S2
reactant | dithiothreitol | 121 mmol, 18.7 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | phosphate | 50 mL | P(=O)([O-])([O-])[O-]
solvent | EtOH | 200 mL | CCO | C2H6O
product | 2-Amino-5-tert-butyl-benzothiazole-6-thiol | NC=1SC2=C(N1)C=C(C(=C2)S)C(C)(C)C | C11H14N2S2
